US08710223B2
Synthesis of 2-bromo-1,5-dinitro-3-fluorobenzene
To a solution of 4,6-dinitro-2-fluorophenol (8 g, 39.60 mmol, 1 equiv) in DMF (24 mL) and toluene (160 mL), PBr3 (5.6 mL, 59.40 mmol, 1.5 equiv) was added at room temperature. Then the reaction mixture was heated at 110° C. for 1 hour. After allowing to cool to room temperature, the upper colorless layer was poured into a separate funnel and diluted with hexanes. The organic layer was washed with water, dried over MgSO4 and evaporated to dryness to give the product (10.3 g, 98%) as a yellow solid.

reactant | 4,6-dinitro-2-fluorophenol | 39.60 mmol, 8 g, 1 equiv | [N+](=O)([O-])C1=CC(=C(C(=C1)[N+](=O)[O-])O)F | C6H3FN2O5
reactant | PBr3 | 59.40 mmol, 5.6 mL, 1.5 equiv | P(Br)(Br)Br | Br3P
solvent | DMF | 24 mL | CN(C)C=O | C3H7NO
solvent | toluene | 160 mL | C1(=CC=CC=C1)C | C7H8
product | 2-bromo-1,5-dinitro-3-fluorobenzene | 10.3 g, 98% | BrC1=C(C=C(C=C1F)[N+](=O)[O-])[N+](=O)[O-] | C6H2BrFN2O4
